US06255536B1
Perfluoro 3-methoxypropyl vinyl ether, CF3O(CF2)3OCF═CF2
In a procedure similar to Example 1, CH3O(CH2)3OH was converted to CF3O(CF2)3OCF(CF3)COOMe bp 123-126° C. and this to CF3O(CF2)3OCF═CF2 bp 62-64° C.

reactant | CH3O(CH2)3OH | COCCCO | C4H10O2
reactant | CF3O(CF2)3OCF(CF3)COOMe | C(F)(F)(F)OC(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(=O)OC | C8H3F13O4
reactant | CF3O(CF2)3OCF═CF2 | C(F)(F)(F)OC(F)(F)C(F)(F)C(F)(F)OC(F)=C(F)F | C6F12O2
product | Perfluoro 3-methoxypropyl vinyl ether | COCCCC=COF | C6H11FO2
